US09326516B2
Preparation of 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)aniline (C2)
To 3-(4-nitrophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (22.0 g, 65.8 mmol) in acetic acid (132 mL) and water (110 mL) was added iron powder. The reaction was heated to 90° C. for 18 hours. The reaction was cooled to room temperature and filtered through Celite® followed by an ethyl acetate wash. The organic layer was separated and concentrated. Purification by flash column chromatography using 0-50% ethyl acetate/petroleum ether as eluent provided the title compound as a light yellow solid (15.6 g, 74%): 1H NMR (300 MHz, CDCl3) δ 8.00 (d, J=1.0 Hz, 1H), 7.68-6.92 (m, 6H), 6.29-5.93 (m, 2H), 3.27 (bs, 2H); ESIMS m/z 305 ([M+H]+).

reactant | 3-(4-nitrophenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 65.8 mmol, 22.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F | C15H9F3N4O2
solvent | acetic acid | 132 mL | C(C)(=O)O | C2H4O2
solvent | water | 110 mL | O | H2O
catalyst | iron | [Fe] | Fe
product | 4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)aniline | 15.6 g, 74% | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)(F)F | C15H11F3N4
